US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-(4-o-tolyl-piperazin-1-yl)-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(2-Methylphenyl)piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 7.14 (m, 2H), 6.98 (m, 2H), 5.37 (s, 2H), 3.60 (m, 4H), 2.89 (m, 2H), 2.81 (m, 2H), 2.27 (s, 3H), 2.20 (s, 3H) ppm; MS (ES) M+H expect=401.1, found=401.1.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-Methylphenyl)piperazine | CC1=C(C=CC=C1)N1CCNCC1 | C11H16N2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-(4-o-tolyl-piperazin-1-yl)-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=C(C=CC=C1)C)C(F)(F)F | C18H20ClF3N4O
